US06211375B1
(2) Preparation of 2-(2,5,6-trifluoro-3,4-dicarboxyphenyl)-acetic Acid
To 50 g of diethyl 2-(2,5,6-trifluoro-3,4-bis(ethoxycarbonyl)phenyl)malonate were added 60 ml of conc. hydrochloric acid and 60 ml of acetic acid, and the mixture was refluxed overnight. The ethyl acetate in the reaction solution was distilled off under reduced pressure, and the solution was refluxed for 2 days. The acid in the reaction solution was distilled off, and hexane was added to the residue. The solid content was collected by filtration and dried to obtain 27 g of the title compound in crude form.

reactant | diethyl 2-(2,5,6-trifluoro-3,4-bis(ethoxycarbonyl)phenyl)malonate | 50 g | FC1=C(C(=C(C(=C1C(=O)OCC)C(=O)OCC)F)F)C(C(=O)OCC)C(=O)OCC | C19H21F3O8
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-(2,5,6-trifluoro-3,4-dicarboxyphenyl)-acetic Acid | 27 g | FC1=C(C(=C(C(=C1C(=O)O)C(=O)O)F)F)CC(=O)O | C10H5F3O6
